US04652651
1.755 g (4.38 mmol) of rac-cis-3-(1-t-butoxyformamido)-4-[(Z)-2-(ethoxycarbonyl)-1-methylvinyl]-2-oxo-1-azetidinesulphonic acid sodium salt are dissolved in 7.5 ml of anisole and the solution is treated at -20° C. with 10 ml of trifluoroacetic acid. After stirring at -20° C. for 30 minutes and then at room temperature for a further 3 hours, the solution is diluted with 300 ml of ether/n-hexane (1:1). The crystals obtained are filtered off, dissolved in 10 ml of water and chromatographed on MCI gel. 808 mg (60%) of rac-cis-3-amino-4-[(Z)-2-(ethoxycarbonyl)-1-methylvinyl]-2-oxo-1-azetidinesulphonic acid are obtained.

reactant | rac-cis-3-(1-t-butoxyformamido)-4-[(Z)-2-(ethoxycarbonyl)-1-methylvinyl]-2-oxo-1-azetidinesulphonic acid sodium salt | 4.38 mmol, 1.755 g | [Na+].C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1\C(=C/C(=O)OCC)\C)S(=O)(=O)[O-])=O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 7.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ether n-hexane | 300 ml | CCOCC.CCCCCC
product | rac-cis-3-amino-4-[(Z)-2-(ethoxycarbonyl)-1-methylvinyl]-2-oxo-1-azetidinesulphonic acid | 808 mg, 60% | N[C@@H]1C(N([C@@H]1\C(=C/C(=O)OCC)\C)S(=O)(=O)O)=O | C9H14N2O6S
